US07678815B2
2-Methyl-5-((5-trifluoromethyl-pyridin-3-yl)amino)-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide
A microwave vial was charged with 5-amino-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide (0.200 g, 0.806 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.159 g, 0.275 mmol) and palladium dibenzylideneacetone (Pd2dba3)-chloroform complex (0.086 g, 0.083 mmol). Degassed dioxane (10 ml) was added, followed by 3-bromo-5-(trifluoromethyl)pyridine (0.223 g, 0.991 mmol) and cesium carbonate (0.527 g, 1.62 mmol) The vial was then irradiated in a microwave oven at 150° C. for 90 min. The mixture was diluted with THF and the solids filtered, washing with THF. The filtrate was evaporated and the residue purified by flash chromatography on silica gel with dichloromethane/methanol 100:0→90:10 gradient to yield the title compound (0.147 g, 46%) as an off-white solid, MS (ISP): m/e=394.0 (M+H+).

reactant | 5-amino-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide | 0.806 mmol, 0.200 g | CC1=NC=CC(=C1)NC(=O)C=1N=C(SC1N)C | C11H12N4OS
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.275 mmol, 0.159 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 3-bromo-5-(trifluoromethyl)pyridine | 0.991 mmol, 0.223 g | BrC=1C=NC=C(C1)C(F)(F)F | C6H3BrF3N
reactant | cesium carbonate | 1.62 mmol, 0.527 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Methyl-5-((5-trifluoromethyl-pyridin-3-yl)amino)-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide | 0.147 g, 46% | CC1=NC=CC(=C1)NC(=O)C=1N=C(SC1NC=1C=NC=C(C1)C(F)(F)F)C | C17H14F3N5OS
